US07812014B2
7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine-3-carbaldehyde:
(5R,6RS)-6-[Acetoxy-(7-methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (481 mg) was dissolved in THF (6.7 mL) and acetonitrile (3.1 mL). Freshly activated Zn dust (1.92 g) and 0.5 M phosphate buffer (pH 6.5, 9.9 mL) were added to the mixture. The reaction vessel was covered with foil to exclude light. The reaction mixture was vigorously stirred for 2 h at room temperature. The reaction solution was mixed with ethyl acetate and filtered through a pad of Celite. The pad was washed with water and the aqueous layer was separated. The aqueous layer was cooled to 3° C. and 1 M NaOH was added to adjust pH to 8.0. The mixture was concentrated under high vacuum at 35° C. and lyophilized. The residue was separated by the preparative HPLC (Inertsil ODS-2, GL Science Inc., 10×250 mm, 0.05 mol/L phosphate buffer (pH 7.1): CH3CN=93:7, 4.0 mL/min.). The separated fractions of (5R),(6Z)-6-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt and (5R),(6E)-6-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt were cooled to 3° C. and 1 M NaOH was added to adjust pH to 8.0 respectively. Each solution was concentrated under high vacuum at 35° C. Each concentrate was applied to Diaion HP-21 (60 mL, Mitsubishi Kasei Co. Ltd.) resin column chromatography. After adsorbing, the column was eluted with water and then with 5% acetonitrile-water. The combined fractions were concentrated under high vacuum at 35° C. and lyophilized to give the title compound (5R),(6Z)-6-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt as a yellow amorphous solid (125 mg, 44.4%, Mp 115-117° C. (dec)) and compound (5R),(6E)-6-(7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt as yellow amorphous solid (19 mg, 6.7%) respectively.

reactant | (5R,6RS)-6-[Acetoxy-(7-methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazin-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 481 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(CC(N(C3)C)=O)C2)OC(C)=O)=O)C=C1 | C23H20BrN5O8S
reactant | phosphate | 0.5 M, 9.9 mL, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 6.7 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 3.1 mL | C(C)#N | C2H3N
catalyst | Zn | 1.92 g | [Zn] | Zn
product | 7-Methyl-6-oxo-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine-3-carbaldehyde | CN1CC=2N(CC1=O)C(=CN2)C=O | C8H9N3O2
